US08168825B2
Preparation of 4-(heptafluoro-n-propylthio)aniline
To 20 ml of an acetonitrile solution of 1.25 g of 4-aminothiophenol and 1.11 g of triethylamine, 5.91 g of 1-iodoheptafluoro-n-propane was added, and the mixture was stirred at room temperature for 3 hours. The mixture was diluted with ether, washed with an aqueous solution of 1N sodium hydroxide and purified by silica gel column chromatography (eluent:hexane:ethyl acetate=4:1) to give 1.85 g (yield 63%) of the title compound.

reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
reactant | 4-aminothiophenol | 1.25 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | triethylamine | 1.11 g | C(C)N(CC)CC | C6H15N
reactant | 1-iodoheptafluoro-n-propane | 5.91 g | IC(C(C(F)(F)F)(F)F)(F)F | C3F7I
solvent | ether | CCOCC | C4H10O
product | 4-(heptafluoro-n-propylthio)aniline | 1.85 g, yield 63% | FC(C(SC1=CC=C(N)C=C1)(F)F)(C(F)(F)F)F | C9H6F7NS
